US05464840
Dissolved 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)pyridine (0.95 g, 3.5 mmol) in 50 mL of glacial acetic acid. Added platinum oxide catalyst (0.2 g), and shook on Paar shaker at 59 psi of hydrogen pressure for 24 hours. Filtered, and evaporated filtrate. Crystallized product from ether to give 1.14 g (100% yield) of 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine acetic acid as a white solid.

reactant | 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)pyridine | 3.5 mmol, 0.95 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C=3C=NC=CC3 | C20H17N
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine acetic acid | 1.14 g, 100% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C3CN(CCC3)CC(=O)O | C22H25NO2
